US07897792B2
2-(2-Nitrobenzoylamino)-3-oxobutanoic acid ethyl ester (Known Compound)
Rh2(OAc)4 (30 mg, 0.063 mmol) was added to a solution of ethyl diazoacetoacetate (1.0 g, 6.32 mmol) and 2-nitrobenzamide (1.05 g, 6.32 mmol) in methylene chloride (15 mL), and the mixture was stirred at 40° C. for a day and a night. Water was then added to the reaction mixture, extraction was performed with ethyl acetate, and the organic extract was washed with water and saturated saline. After drying over magnesium sulfate, it was concentrated under reduced pressure to yield a crude product, which was then purified by column chromatography to yield the title compound (1.42 g, 77%) as a yellow oil.

reactant | ethyl diazoacetoacetate | 6.32 mmol, 1.0 g | [N+](=[N-])=CC(CC(=O)OCC)=O | C6H8N2O3
reactant | 2-nitrobenzamide | 6.32 mmol, 1.05 g | [N+](=O)([O-])C1=C(C(=O)N)C=CC=C1 | C7H6N2O3
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Nitrobenzoylamino)-3-oxobutanoic acid ethyl ester | 1.42 g, 77% | C(C)OC(C(C(C)=O)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C13H14N2O6
